US08183194B2
Preparation of methyl trans-(2E)-3-(2,2,6-trimethyl-1-cyclohexyl)-2-propenoate
Trimethyl phosphonoacetate (200 g, 1.1 mol) was added dropwise to a suspension of NaH (44 g, 55% in oil, 1.1 mol) in iPr2O (1600 ml). After 2.5 hours, a solution of trans 2,3,6-trimethyl-2-cyclohexanecarbaldehyde [see C. Chapuis, R. Brauchli, Helv. Chim. Acta 1993, 76, 2070.] (91 g, 0.59 mol) in iPr2O (400 ml) was added dropwise. After 18 hours at 20° C., the reaction mixture was poured onto ice and extracted to neutrality with brine, dried (Na2SO4), concentrated and distilled through a 15 cm Vigreux column to afford the pure desired product in 41% yield.

reactant | Trimethyl phosphonoacetate | 1.1 mol, 200 g | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | NaH | 1.1 mol, 44 g | [H-].[Na+]
reactant | trans 2,3,6-trimethyl-2-cyclohexanecarbaldehyde | 0.59 mol, 91 g | CC1(C[C@H](CC[C@@H]1C)C)C=O | C10H18O
reactant | iPr2O | 1600 ml | O(C(C)C)C(C)C | C6H14O
reactant | iPr2O | 400 ml | O(C(C)C)C(C)C | C6H14O
product | methyl trans-(2E)-3-(2,2,6-trimethyl-1-cyclohexyl)-2-propenoate | 41% yield | CC1([C@H]([C@@H](CCC1)C)/C=C/C(=O)OC)C | C13H22O2
